US04988714
from 1.3 g of p-(2-ethoxyethoxy)-phenethylamine (prepared by the reaction of N-carbobenzoxytyramine in DMSO in the presence of potassium hydroxide with ethoxyethyl methanesulfonate and catalytic hydrogenation of the benzyl [p-(2-ethoxyethoxy)]phenethylcarbamate obtained in methanol in the presence of pd/C) and 726 mg of 3-[(RS)-2-oxiranyl]pyridine there were obtained

reactant | p-(2-ethoxyethoxy)-phenethylamine | 1.3 g | C(C)OCCOC1=CC=C(CCN)C=C1 | C12H19NO2
reactant | N-carbobenzoxytyramine | C(=O)(OCC1=CC=CC=C1)NCCC1=CC=C(C=C1)O | C16H17NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethoxyethyl methanesulfonate | CS(=O)(=O)OCCOCC | C5H12O4S
reactant | benzyl [p-(2-ethoxyethoxy)]phenethylcarbamate | C(C)OCCOC1=CC=C(CCNC(OCC2=CC=CC=C2)=O)C=C1 | C20H25NO4
solvent | DMSO | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | 3-[(RS)-2-oxiranyl]pyridine | 726 mg | O1C(C1)C=1C=NC=CC1 | C7H7NO
